US06124287
By reaction of 2,3,6-trichloroquinoxaline with aminoacetaldehyde dimethyl acetal, according to a procedure that is similar to that followed in example 1, there is obtained 8-chloroimidazo[1,2-a]quinoxaline-4(5H)-one (m.p. >300° C.). By reacting this product with 1-ethyl propylamine according to the method described in example 9, there is obtained 8-chloro-4-(1-ethylpropylamino)imidazo[1,2-a]quinoxaline. m.p. (DSC)=125.1° C.(onset); IR (KBr): 3406, 3105, 2964, 1532 cm-1 ; 1H-NMR (CDCl3 /CD3OD): δ8.4 (1H,s), 8.05 (1H,d, J=2 Hz), 7.8÷7.4 (3H,m), 3.85 (1H,m), 1.65 (4H,m), 0.95 (6H,t); UV (EtOH): λmax =230, 245, 289, 301, 326 nm. Elementary analysis for C15H17ClN4 (m.w. 288.78): calcd. C 62.39, H 5.93, N 19.40%; found C 62.17, H 6.02, N 19.46%.

reactant | 2,3,6-trichloroquinoxaline | ClC1=NC2=CC=C(C=C2N=C1Cl)Cl | C8H3Cl3N2
reactant | aminoacetaldehyde dimethyl acetal | COC(CN)OC | C4H11NO2
product | 8-chloroimidazo[1,2-a]quinoxaline-4(5H)-one | ClC1=CC=C2NC(C=3N(C2=C1)C=CN3)=O | C10H6ClN3O
